US07834021B2
N-{(3R)-1-[4-Hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexyl]pyrrolidin-3-yl}-4-oxo-4-[3-(trifluoromethyl)phenyl]butanamide.
To a stirred solution of 4[(3R)-3-aminopyrrolidin-1-yl]-1-(2-isopropyl-1,3-thiazol-5-yl)cyclohexanol 3HCl salt (0.233 g, 0.557 mmol) and 4-oxo-4-[3-(trifluoromethyl)phenyl]butanoic acid (0.15 g, 0.61 mmol) in DMF (5 mL) was added Et3N (0.34 mL, 2.44 mmol) followed by BOP (0.296 g, 0.67 mmol). The mixture was stirred overnight at room temperature. Then the reaction mixture was diluted with EtOAc and washed with saturated Na2CO3 and brine. The organic layer was dried (MgSO4), concentrated and flash chromatographed (EtOAc to 10% MeOH/EtOAc) to give 0.075 g of the title compound. MS (EI) calculated: MS (EI) calcd: (M+H)+=538.2; found: 538.1.

reactant | 4[(3R)-3-aminopyrrolidin-1-yl]-1-(2-isopropyl-1,3-thiazol-5-yl)cyclohexanol 3HCl salt | 0.557 mmol, 0.233 g | Cl.Cl.Cl.N[C@H]1CN(CC1)C1CCC(CC1)(O)C1=CN=C(S1)C(C)C
reactant | 4-oxo-4-[3-(trifluoromethyl)phenyl]butanoic acid | 0.61 mmol, 0.15 g | O=C(CCC(=O)O)C1=CC(=CC=C1)C(F)(F)F | C11H9F3O3
reactant | Et3N | 2.44 mmol, 0.34 mL | CCN(CC)CC | C6H15N
reactant | BOP | 0.67 mmol, 0.296 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{(3R)-1-[4-Hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexyl]pyrrolidin-3-yl}-4-oxo-4-[3-(trifluoromethyl)phenyl]butanamide | 0.075 g | OC1(CCC(CC1)N1C[C@@H](CC1)NC(CCC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C1=CN=C(S1)C(C)C | C27H34F3N3O3S
